US09238639B2
B) Methyl(4-chloro-6-methoxy-2-methyl-1-benzothiophen-3-yl)acetate
To methyl 4-((3-chloro-5-methoxyphenyl)sulfanyl)-3-oxopentanoate (1.86 g) was added methanesulfonic acid (5.98 mL) at 0° C. The mixture was stirred at 0° C. under nitrogen atmosphere for 15 min. The mixture was poured into water and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (1.01 g).

reactant | methyl 4-((3-chloro-5-methoxyphenyl)sulfanyl)-3-oxopentanoate | 1.86 g | ClC=1C=C(C=C(C1)OC)SC(C(CC(=O)OC)=O)C | C13H15ClO4S
reactant | methanesulfonic acid | 5.98 mL | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
product | Methyl(4-chloro-6-methoxy-2-methyl-1-benzothiophen-3-yl)acetate | 1.01 g | COC(CC1=C(SC2=C1C(=CC(=C2)OC)Cl)C)=O | C13H13ClO3S
